US06888003B2
10.3 2-Bromo-4,6-dichloro-3-(5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)aniline IVa.4
1 g (2.9 mmol) of 2,4-dichloro-5-(5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)aniline and 2.4 g (29 mmol) of sodium acetate were initially charged in 100 ml of glacial acetic acid, and 0.93 g (5.6 mmol) of bromine was added dropwise at room temperature. The reaction mixture was stirred overnight and then concentrated, and the residue was taken up in toluene and washed with 50 ml of 5% by weight strength aqueous sodium hydroxide solution until neutral. The organic phase was dried over magnesium sulfate and concentrated. This gave 1.3 g of the aniline IVa.4. The product that was obtained was identical to the compound obtained according to example 1.1.

reactant | 2,4-dichloro-5-(5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)aniline | 2.9 mmol, 1 g | ClC1=C(N)C=C(C(=C1)Cl)C1=NN(C(=C1)OC(F)F)C | C11H9Cl2F2N3O
reactant | sodium acetate | 29 mmol, 2.4 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 5.6 mmol, 0.93 g | BrBr | Br2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-4,6-dichloro-3-(5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)aniline | BrC1=C(N)C(=CC(=C1C1=NN(C(=C1)OC(F)F)C)Cl)Cl | C11H8BrCl2F2N3O
